US04857643
A solution of 3-chloroacetyl-2-[2'-(o-chloroacetoxyphenyl)ethyl]thiazolidine (5.5 g) in dry methanol is treated with p-toluenesulphonic acid (0.5 g) at room temperature for 2 days. The excess of solvent is evaporated in vacuum and then the mixture is diluted with water (80 ml). The crystalline precipitate is collected by filtration, dried in vacuum and recrystallized from Et2O to give 3.9 g of 3-chloroacetyl-2-[2'-(o-hydroxyphenyl)ethyl]thiazolidine m.p. 98° C.

reactant | 3-chloroacetyl-2-[2'-(o-chloroacetoxyphenyl)ethyl]thiazolidine | 5.5 g | ClCC(=O)N1C(SCC1)CCC1=C(C=CC=C1)OC(CCl)=O | C15H17Cl2NO3S
reactant | p-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | CO | CH4O
product | 3-chloroacetyl-2-[2'-(o-hydroxyphenyl)ethyl]thiazolidine | 3.9 g | ClCC(=O)N1C(SCC1)CCC1=C(C=CC=C1)O | C13H16ClNO2S
